US04374843
29.1 g (0.1 mol) of 2-guanidino-4-thiazole carboxylic acid 2-amidino hydrazide hemisulfate was heated to boiling with 250 ml concentrated ammonium hydroxide. Additional ammonium hydroxide was added to replace the volume lost due to loss of ammonia. After 8 hours heating, boiling was continued until the pH was below 8.0 and the mixture was allowed to cool. The resulting solid was collected by filtration, washed with a small portion of water, decolorized with charcoal, recrystallized from water and dried in vacuo to give 10.8 g (48%) of 2-guanidino-4-(3-amino-5-1,2,4-triazolyl)thiazole, mp 173°-5°. nmr (DMSO-D6) (δ): 7.07 (s, 1H); 6.93 (broad s, 4H); 5.53 (broad s, 2H); Calcd. for C6H8N8S: C, 32.14; H, 3.60; N, 49.97; found: C, 32.13; H, 3.70; N, 50.15.

reactant | 2-guanidino-4-thiazole carboxylic acid 2-amidino hydrazide hemisulfate | 0.1 mol, 29.1 g | S(=O)(=O)(O)O.C(N)(=N)NNC(=O)C=1N=C(SC1)NC(=N)N.N(C(=N)N)C=1SC=C(N1)C(=O)NNC(N)=N
reactant | ammonia | N | H3N
solvent | ammonium hydroxide | 250 ml | [OH-].[NH4+]
product | 2-guanidino-4-(3-amino-5-1,2,4-triazolyl)thiazole | 10.8 g, 48% | N(C(=N)N)C=1SC=C(N1)C1=NC(=NN1)N | C6H8N8S
